US08791139B2
Synthesis of 1-(3-chloropyridin-2-yl)-3-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]acetyl}-1H-pyrazole-5-carboxylic acid
300 mg (0.58 mmol) of ethyl 1-(3-chloropyridin-2-yl)-3-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]acetyl}-1H-pyrazole-5-carboxylate were dissolved in 4 ml of ethanol, 282 mg (3.15 mmol) of 2N aqueous sodium hydroxide solution were added and the mixture was stirred at RT for 5 d. The solvent was distilled off under reduced pressure, the residue was taken up in water and the mixture was extracted once with methyl tert-butyl ether. The aqueous phase was then acidified with 2N hydrochloric acid and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulphate and concentrated.

reactant | ethyl 1-(3-chloropyridin-2-yl)-3-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]acetyl}-1H-pyrazole-5-carboxylate | 0.58 mmol, 300 mg | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OCC)C(CN1N=C(N=N1)C(F)(F)F)=O | C15H11ClF3N7O3
reactant | sodium hydroxide | 3.15 mmol, 2N, 282 mg | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-(3-chloropyridin-2-yl)-3-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]acetyl}-1H-pyrazole-5-carboxylic acid | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)C(CN1N=C(N=N1)C(F)(F)F)=O | C13H7ClF3N7O3
